US04518596
8-[N-Benzyl-2-hydroxyethyl-amino]-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 118 from 8-[N-benzyl-N-(2-hydroxyethyl)-amino]-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 153°-155° C.) and piperazine.

reactant | 8-[N-benzyl-N-(2-hydroxyethyl)-amino]-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)N(CCO)C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C19H21ClN6O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-[N-Benzyl-2-hydroxyethyl-amino]-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2)CCO | C23H30N8O2S
